US04657899
Ethyl 3-[2-(3-diethylphosphonopropyl)phenyl]-2-acetamido-2-carboethoxy-propanoate
A solution of 7.5 g (17.5 mmol) of ethyl 3-[2-(3-bromopropyl)phenyl]-2-acetamido-2-carboethoxypropanoate in 20 mL of freshly distilled triethylphosphite was stirred at reflux for 6 h. The excess P(OEt)3 and the volatile by-products were removed from the mixture by distillation under vacuum. The remaining viscous oil was chromatographed on a column of silica gel with ethyl acetate as eluant. The combined fractions were concentrated under reduced pressure to yield 4.2 g (49%) of the product as a viscous yellow oil. IR(neat): 1746, 1680 cm-1 (C=O). 1H NMR(CDCl3) δ 1.1-2.1 (complex m, 19H); 2.4-2.7 (t, 2H); 3.6 (5, 2H); 3.8-4.3 (m, 8H); 6.55 (s, 1H); 6.9-7.2 (m, 4H).

reactant | ethyl 3-[2-(3-bromopropyl)phenyl]-2-acetamido-2-carboethoxypropanoate | 17.5 mmol, 7.5 g | BrCCCC1=C(C=CC=C1)CC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C19H26BrNO5
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
product | Ethyl 3-[2-(3-diethylphosphonopropyl)phenyl]-2-acetamido-2-carboethoxy-propanoate | 4.2 g, 49% | C(C)OP(=O)(OCC)CCCC1=C(C=CC=C1)CC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C23H36NO8P
